US03962224
Azidoacetic acid (5.35 g, 0.05 mole) and mercuric acetate (1.82 g, 5.7 mMoles) are added to 50 ml of methylene chloride containing 0.1 ml of boron trifluoride etherate. Propyne, which had been passed through Linde Co. Molecular Sieves 4A, is bubbled slowly through the mixture for 3 hours. Sodium bicarbonate (0.5 g) is added and the mixture is filtered through a short Florisil column. The eluent is concentrated in vacuo and the residue obtained is purified by vacuum distillation to give isopropenyl azidoacetate.

reactant | Azidoacetic acid | 0.05 mole, 5.35 g | N(=[N+]=[N-])CC(=O)O | C2H3N3O2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | Propyne | C#CC | C3H4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | isopropenyl azidoacetate | N(=[N+]=[N-])CC(=O)OC(=C)C | C5H7N3O2
